US08895566B2
Pd(PPh3)4 (10 mg, 0.09 mmol) was added to a degassed solution of (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta-[d]-pyrimidine (300 mg, 1.78 mmol) and a 0.5M solution of 5-ethoxycarbonyl-2-thienylzinc bromide in THF (3.6 mL, 1.78 mmol). The reaction mixture was stirred at 70° C. for 16 hours and then it was cooled to room temperature and diluted with diethyl ether (10 mL). Water was added (5 mL) and a precipitate was formed and filtered. The solid was washed with more diethyl ether and the filtrate was concentrated. The resulting oil was purified on silica gel (0%-75% EtOAc/hexanes) to yield (R)-ethyl 5-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxylate as an oil (400 mg, 78%). m/z: 289 (MH+), 1H NMR (CDCl3): δ (ppm) 8.95 (s, 1H), 7.84-7.82 (m, 1H), 7.70-7.69 (m 1H), 4.39 (dq, 2H, J1=7.2 Hz, J2=1.2 Hz), 3.77 (quint., 1H, J=7.2 Hz), 3.23-1.14 (m, 1H), 3.001-2.95 (m, 1H), 2.42-2.31 (m, 1H), 1.98-1.92 (m, 1H), 1.40 (dt, 3H, J1=7.2 Hz, J2=1.2 Hz), 1.29 (d, 3H, J=7.2 Hz).

reactant | (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta-[d]-pyrimidine | 1.78 mmol, 300 mg | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
reactant | 5-ethoxycarbonyl-2-thienylzinc bromide | [Br-].C(C)OC(=O)C1=CC=C(S1)[Zn+]
reactant | THF | 1.78 mmol, 3.6 mL | C1CCOC1 | C4H8O
reactant | Water | O | H2O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
catalyst | Pd(PPh3)4 | 0.09 mmol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-ethyl 5-(5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)thiophene-2-carboxylate | 400 mg, 78% | C[C@@H]1CCC=2N=CN=C(C21)C2=CC=C(S2)C(=O)OCC | C15H16N2O2S
